US04732912
2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (0.31 g.) and p-toluenesulphonic acid (0.005 g.) were successively added to a stirred solution of 12-[(1RS, 2RS)-6-methoxy-2-p-methoxyphenyl-1,2,3,4- tetrahydronaphth-1-yl]dodecanoic acid (0.29 g.) in benzene (30 ml.), and the mixture was stirred and heated under reflux for 2 hours whilst a stream of argon was bubbled through it. The mixture was cooled and filtered, the filtrate was evaporated to dryness and the residue was purified by chromatography on a silica gel column using a 2:1 v/v mixture of toluene and ethyl acetate as eluant. There was thus obtained as an oil 12-(6-methoxy-2-p-methoxyphenylnaphth-1-yl)dodecanoic acid, which was a starting material for compounds described in Table 1.

reactant | 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone | 0.31 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | p-toluenesulphonic acid | 0.005 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 12-[(1RS, 2RS)-6-methoxy-2-p-methoxyphenyl-1,2,3,4- tetrahydronaphth-1-yl]dodecanoic acid | 0.29 g | COC=1C=C2CCC(C(C2=CC1)CCCCCCCCCCCC(=O)O)C1=CC=C(C=C1)OC | C30H42O4
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 12-(6-methoxy-2-p-methoxyphenylnaphth-1-yl)dodecanoic acid | COC=1C=C2C=CC(=C(C2=CC1)CCCCCCCCCCCC(=O)O)C1=CC=C(C=C1)OC | C30H38O4
